US05866576
A solution of 1-(12-Tridecenyl)-3,7-dimethylxanthine (1.39 g, 3.86 mmol), 4-methylmorpholine-N-oxide (1.36 g, 11.6 mmol) and potassium osmate dihydrate (14 mg, 0.040 mmol) in acetone/water 1:2 (25 mL) was stirred for 16 hours. Water (25 mL) and sodium sulfite (2 g) were added and the reaction mixture stirred for 1 hour. The reaction mixture was extracted with dichloromethane (3×50 mL), dried using magnesium sulfate and the solvent evaporated to yield 1.25 g (82%) of 1-(12,13-dihydroxytridecyl)-3,7-dimethylxanthine (inventive compound no. 2556) as a white solid.

reactant | 1-(12-Tridecenyl)-3,7-dimethylxanthine | 3.86 mmol, 1.39 g | C(CCCCCCCCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C20H32N4O2
reactant | 4-methylmorpholine-N-oxide | 11.6 mmol, 1.36 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Water | 25 mL | O | H2O
reactant | sodium sulfite | 2 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone water | 25 mL | CC(=O)C.O
product | 1-(12,13-dihydroxytridecyl)-3,7-dimethylxanthine | 1.25 g, 82% | OC(CCCCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C20H34N4O4
